US08383629B2
2-(7-chloro-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid
The title compound was prepared following a procedure analogous to that described in Example 1 using 3-(2-(trifluoromethyl)phenyl)propanoic acid and ethyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate followed by a procedure analogous to that in Example 2. LC-MS Method 1 tR=1.93, min, m/z=482, 480

reactant | 3-(2-(trifluoromethyl)phenyl)propanoic acid | FC(C1=C(C=CC=C1)CCC(=O)O)(F)F | C10H9F3O2
reactant | ethyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | ClC=1C=CC=C2C(CC3(CCNCC3)C12)CC(=O)OCC | C17H22ClNO2
product | 2-(7-chloro-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid | ClC=1C=CC=C2C(CC3(CCN(CC3)C(CCC3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)O | C25H25ClF3NO3
